US04246292
Synthesis of 2,4,4-trimethyl-3-butylcyclohexan-1-one.
The mixture of compounds obtained according to example 1 starting from β-ionone is dissolved in methanol and hydrogenated at atmospheric pressure and room temperture using 5% Palladium on charcoal as a catalyst.

reactant | β-ionone | CC1=C(C(CCC1)(C)C)/C=C/C(=O)C | C13H20O
reactant | methanol | CO | CH4O
catalyst | Palladium on charcoal | [Pd] | Pd
product | 2,4,4-trimethyl-3-butylcyclohexan-1-one | CC1C(CCC(C1CCCC)(C)C)=O | C13H24O
